US06166206
5-[(2-Dimethylaminoethyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione (J. Med. Chem., 1995, 38 2557) (473 mg) and bis(2-dimethylaminoethyl)disulphide (0.6 ml) were dissolved in tetrahydrofuran (10 ml) and cooled to -78° C. Lithium diisopropylamide in tetrahydrofuran (2.5 eq) was added dropwise and the resultant deep red solution was stirred for 75 minutes at -78° C. The cooling bath was removed and the solution allowed to stir for a further 60 minutes. Sodium bicarbonate (aqueous) was added followed by ether and the phases were separated. The aqueous phase was extracted twice with ether. The organic phases were combined and washed twice with brine before being dried, filtered and concentrated. The resultant oil was purified by column chromatography (eluant, dichloromethane:methanol:triethylamine 450:50:0.2) and then recrystallised from ether-isohexane to give the title compound (230 mg).

reactant | 3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione | 473 mg | CN1C(N(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H23N3O2
reactant | bis(2-dimethylaminoethyl)disulphide | 0.6 ml | CN(CCSSCCN(C)C)C | C8H20N2S2
reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 eq | O1CCCC1 | C4H8O
product | 5-[(2-Dimethylaminoethyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 230 mg | CN(CCSC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21)C | C26H32N4O2S
